US09024018B2
3-Methyl-8-(4-phenyl-1H-imidazol-2-yl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one (WW-049)
A mixture of crude 3-methyl-4-oxo-N-(2-oxo-2-phenylethyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboximidamide hydroiodide (250 mg) in 3N HCl (17 mL) was heated at 80° C. overnight. After being cooled to room temperature, the mixture was left at 4° C. for 1 hour and the precipitate was filtered and washed successively with cold water, ethyl acetate and diethyl ether to give a 97:3 mixture of hydrochloride and hydroiodide salt (elemental analysis) of the title compound.

reactant | 3-methyl-4-oxo-N-(2-oxo-2-phenylethyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboximidamide hydroiodide | 250 mg | I.CN1N=NC=2N(C1=O)C=NC2C(NCC(C2=CC=CC=C2)=O)=N
solvent | HCl | 3N, 17 mL | Cl | ClH
product | 3-Methyl-8-(4-phenyl-1H-imidazol-2-yl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one | CN1N=NC=2N(C1=O)C=NC2C=2NC=C(N2)C2=CC=CC=C2 | C14H11N7O
